US09108984B2
Step C: Methyl 5-chloro-2-hydroxy-3-nitro-4-[(trimethylsilyl)ethynyl]benzoate
A solution of methyl 5-chloro-2-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate (15 g, 53 mmol) in acetic acid (110 mL) at 55° C. was treated with a solution of nitric acid (7.8 mL, 190 mmol) in acetic acid (7.8 mL, 140 mmol) dropwise and stirred at 55° C. for 30 minutes. The reaction mixture contained only starting material and was treated with an additional solution of nitric acid (2.2 mL, 53 mmol) in acetic acid (2.2 mL, 39 mmol) dropwise and stirred at 55° C. for 1.5 hour. The reaction mixture was cooled to 0° C. and treated with ice followed by cold water. The reaction mixture was stirred until the ice melted, filtered, washed with cold water, and air dried to give the desired product (11.7 g, 67%) as a tan solid. This material was used without further purification. LCMS for C13H15ClNO5Si (M+H)+: m/z=328.0; Found: 327.8.

reactant | methyl 5-chloro-2-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate | 53 mmol, 15 g | ClC=1C(=CC(=C(C(=O)OC)C1)O)C#C[Si](C)(C)C | C13H15ClO3Si
reactant | nitric acid | 190 mmol, 7.8 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 53 mmol, 2.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 110 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 39 mmol, 2.2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 140 mmol, 7.8 mL | C(C)(=O)O | C2H4O2
product | Methyl 5-chloro-2-hydroxy-3-nitro-4-[(trimethylsilyl)ethynyl]benzoate | 11.7 g, 67% | ClC=1C(=C(C(=C(C(=O)OC)C1)O)[N+](=O)[O-])C#C[Si](C)(C)C | C13H14ClNO5Si
